US07192968B2
1,2-Epoxy-4-methoxycarbonylcyclopentane
3-Cyclopentenecarboxylic acid (J. Org. Chem., 1984, Vol. 49, p. 928) (2.42 g) was dissolved in methanol (8 ml) and 2,2-dimethoxypropane (32 ml), and trimethylsilyl chloride (253 μl) was added dropwise to stir the mixture at room temperature for 6.5 hours. The solvent was distilled off under reduced pressure, and the residue was dissolved in dichloromethane (50 ml), to which m-chloroperbenzoic acid (70%, 4.93 g) was added under ice cooling. After the mixture was heated to room temperature and stirred for 5 hours, a saturated aqueous solution of sodium hydrogencarbonate was added to separate an organic layer. The organic layer was washed with a saturated aqueous solution of sodium hydrogencarbonate and then dried over anhydrous sodium sulfate. The organic layer was concentrated under reduced pressure, and the residue was purified by column chromatography on silica gel (hexane:ethyl acetate=2:1) to obtain the title compound (1.59 g) as a colorless oil.

reactant | 3-Cyclopentenecarboxylic acid | 2.42 g | C1(CC=CC1)C(=O)O | C6H8O2
reactant | trimethylsilyl chloride | 253 μl | C[Si](C)(C)Cl | C3H9ClSi
reactant | methanol | 8 ml | CO | CH4O
solvent | 2,2-dimethoxypropane | 32 ml | COC(C)(C)OC | C5H12O2
product | 1,2-Epoxy-4-methoxycarbonylcyclopentane | 1.59 g | O1C2C1CC(C2)C(=O)OC | C7H10O3
